US08530493B2
24. (3aSR,10RS)-2-(2-Bromo-ethyl)-10-(3-hydroxy-phenyl)-6-methoxy-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione
To a solution of 3.17 g (1RS,3SR)-1-(3-Hydroxy-phenyl)-6-methoxy-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester in 35 ml 2-butanon are added 860 μl bromoethyl isocyanate. The mixture is heated to reflux for 7 h and is stirred at room temperature over night. The precipitated compound is filtered and washed with 2-butanon. 3.09 g (74%) of the title compound are obtained. m.p.: 299-302° C., MS: m/z (MH+)=484.0/486.0

reactant | (1RS,3SR)-1-(3-Hydroxy-phenyl)-6-methoxy-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | 3.17 g | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OC)C1=CC(=CC=C1)O)C | C21H22N2O4
reactant | bromoethyl isocyanate | 860 μl | BrCCN=C=O | C3H4BrNO
solvent | 2-butanon | 35 ml | CC(CC)=O | C4H8O
product | (3aSR,10RS)-2-(2-Bromo-ethyl)-10-(3-hydroxy-phenyl)-6-methoxy-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione | 3.09 g, 74% | BrCCN1C(C2(N(C(C=3NC4=CC=C(C=C4C3C2)OC)C2=CC(=CC=C2)O)C1=O)C)=O | C23H22BrN3O4
